US05824679
N-(Dimethyloxophosphinyl-methyl)-N-{3-methyl-5-[2-(pyridin-4-ylamino)-ethoxyl]-phenyl}-2-(2-propyl-oxy)-benzenesulfonamide
was produced in a 35% yield analogously to example 5. Oil. MS (m/e)=532. For this 2-isopropyloxy-benzene-sulfonyl chloride was used in step 5c) instead of 2-methoxy-benzenesulfonyl chloride and N-(3-cyanomethoxy-5-methyl-phenyl)-2-(2-propyloxy)-benzenesulfonamide (Fp. 100°-102° C.) was obtained in a 21% yield which was reacted analogously to example 5d) to form N-(dimethyloxophosphinyl-methyl)-N-(3-cyanomethoxy-5-methyl-phenyl)-2-(2-propyloxy)-benzenesulfonamide (65% Fp. 137°-140° C.) and this was reacted analogously to example 5e) to form N-(dimethyloxophosphinyl-methyl)-N-[3-(2-amino-ethoxy)-5-methyl-phenyl]-2-(2-propyloxy)-benzene sulfonamide (75% oil, MS (m/e)=454) which was reacted analogously to example 5f) to form a mixture of N-(dimethyloxophosphinyl-methyl)-N-{3-[2-(3,5-dichloro-pyridin-4-ylamino)-ethoxy]-5-methyl-phenyl}-2-(2-propyloxy)-benzenesulfonamide and N-(dimethyloxo-phosphinyl-methyl)-N-{3-[2-(3,4-dichloro-pyridin-5-ylamino)-ethoxy]5-methyl-phenyl}-2-(2-propyloxy)-benzenesulfonamide (quant., oil, MS (m/e)=601) from which the title compound was obtained analogously to example 5g) by catalytic hydrogenation.

reactant | N-(dimethyloxophosphinyl-methyl)-N-{3-[2-(3,5-dichloro-pyridin-4-ylamino)-ethoxy]-5-methyl-phenyl}-2-(2-propyloxy)-benzenesulfonamide | CC(N(S(=O)(=O)C1=C(C=CC=C1)OC(C)C)C1=CC(=CC(=C1)C)OCCNC1=C(C=NC=C1Cl)Cl)(P(=O)=O)C | C26H30Cl2N3O6PS
reactant | N-(dimethyloxo-phosphinyl-methyl)-N-{3-[2-(3,4-dichloro-pyridin-5-ylamino)-ethoxy]5-methyl-phenyl}-2-(2-propyloxy)-benzenesulfonamide | CP(=O)(C(N(S(=O)(=O)C1=C(C=CC=C1)OC(C)C)C1=CC(=CC(=C1)C)OCCNC=1C(=C(C=NC1)Cl)Cl)=O)C | C26H30Cl2N3O6PS
product | N-(Dimethyloxophosphinyl-methyl)-N-{3-methyl-5-[2-(pyridin-4-ylamino)-ethoxyl]-phenyl}-2-(2-propyl-oxy)-benzenesulfonamide | CC(N(S(=O)(=O)C1=C(C=CC=C1)OC(C)C)C1=CC(=CC(=C1)OCCNC1=CC=NC=C1)C)(P(=O)=O)C | C26H32N3O6PS
